2157-09-23 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   uneventful night, diuresed.
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2157-9-22**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-9-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 70) bpm
   BP: 112/57(72) {100/55(66) - 118/74(84)} mmHg
   RR: 21 (21 - 28) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
                  Total In:
                                                                    320 mL
                                                                    120 mL
   PO:
                                                                    320 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    680 mL
                                                                    740 mL
   Urine:
                                                                    680 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ////
   Ve: 13.8 L/min
   Physical Examination
   Gen: NAD, mildly labored breathing with expiratory moaning
   HEENT: NC/AT, EOMI, ? b/l xanthomas. L pupil dilated >R from corneal
   transplant. Dry MM
   neck: + JVD to jaw
   CV: S1S2+, RRR, no MRG
   pulm: no accessory muscle use, B/L insipratory crackles [**12-22**] way up,  no
   wheezes or rhonchi
   abd: +BS, soft, tympanic throughout, nt, nd, no HSM
   ext: 2+ b/l LE edema to belwo the knee, 1+DP and PT pulses B/L
   neuro: AAOx3, CN2-12 intact gross, moves all 4 extremities equally, [**4-25**]
   strength LE's, grossly nonfocal
   skin: ecchymoses along R hand, no ulcers or breakdown, rash or lesion
   psych: mood/affect appropriate
   Labs / Radiology
   3.4 mg/dL
   5.1 mEq/L
   93 mg/dL
        [image002.jpg]
                             [**2157-9-23**]  12:32 AM
   Cr
   3.4
   Assessment and Plan
   [**Age over 90 **] yo M CHF, CAD s/p CABG, CKD, DM2, who presents with shortness of
   breath most likely due to CHF exacerbation.
   .
   # Probable Acute on Chronic Systolic CHF - most likely etiology to
   dyspnea is CHF exacerbation based on increased JVP, LE edema, elevated
   BNP, and current weight of 150 lbs, up from b/l 135-138. ther is no
   evidence of acute cardiac ischemia. Pneumonia is a possibility, but
   with lack of fever/chills or elevated WBC count, this is less
   compelling. Low probability for PE as alternative diagnosis is much
   more compelling.
   -- strict I/Os and daily weights
   -- goal to diurese 1L/day with lasix/diuril (dry weight 135-138 lbs)
   -- low sodium diet, fluid restrict to 1.5L
   -- NIPPV as needed for increased WOB
   -- prn nebs
   -- repeat CXR in AM
   -- hold on antibiotics for now - low threshold to start if febrile or
   infiltrates fail to improve with diuresis
   -- check urine legionella, f/u urine culture and blood cultures
   .
   # CAD s/p CABG - ACS much less likely to explain acute presentation
   -- hold home BB in acute setting of CHF
   -- continue aspirin 81 mg daily
   -- no need for statin per recent cards eval
   -- monitor on tele
   -- trend CE's in AM to complete r/o
   .
   # CHB s/p PPM -
   -- pt is [**Name (NI) 1700**], monitor on tele
   .
   # Stage 4 CKD - Likely from HTN or DM nephropathy, Cr is mildly
   elevated from baseline of [**1-23**]
   -- check urine lytes
   -- trend Cr with diuresis
   -- renally dose meds
   .
   # Hyperkalemia - mild and likely related to mild worsening of RF
   -- no peaked T waves on EKG
   -- will aggressively diurese, may reduce K
   -- trend K, consider kayexylate if no improvement
   .
   # DM - well controlled, last HbA1C 6.1% in [**8-29**]
   -- RISS, check FS QID, diabetic diet
   -- continue asa for ppx
   -- hold oral hypoglycemic while in-house
   .
   # Elevated INR - chronic, deemed nutritional during previous
   hospitalizations given poor albumin and underlying nutrition
   -- will give vitamin K 10mg po x 1
   -- trend coags
   .
   # Anemia: Chronic, and without prior colonoscopy (deferred [**1-22**] age)
   -- recent iron studies not consistent with iron deficiency or ACD.
   -- No evidence of acute blood loss or hemolysis on prior admissions
   -- trend HCT
   .
   # BPH-treated as outpatient.
   -- hold flomax to allow for BP usage in diuresis
   .
   #FEN:
   -- PO low sodium heart healthy diet
   -- follow and replete electrolytes [**Hospital1 7**] with diuresis
   .
   #PPx:
   -- sub Q hep, bowel regimen, H2 blocker
   .
   # Code
   -- is DNR but may be intubated, discussed with HCPs
   .
   #Comm: son [**Name (NI) **] [**Telephone/Fax (1) 1701**], son [**Name (NI) 1296**] [**Telephone/Fax (1) 1702**] both are HCPs
   -- will assist with ICU consent in AM
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2157-9-22**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-09-23 10:21:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yr old man with CHF presents with decomp systolic CHF requiring
   BIPAP
   24 Hour Events:
   Able to wean off BIPAP
   Given Lasix and Diuril last PM
    Still with significant dyspnea this AM but also anxious and speaking
   with son
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2157-9-22**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-9-23**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-9-23**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 71) bpm
   BP: 107/51(37) {100/51(37) - 118/74(84)} mmHg
   RR: 27 (21 - 34) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
                  Total In:
                                                                    320 mL
                                                                    460 mL
   PO:
                                                                    320 mL
                                                                    460 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    680 mL
                                                                    995 mL
   Urine:
                                                                    680 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 98%
   ABG: ///24/
   Ve: 13.8 L/min
   Physical Examination
   Gen: elederly man lying in bed, mild ot mod  resp distress but speaking
   in full sentences
   HEENT: o/p clear
   CV: RR
   Chest: harsh upper airway sounds disseminated throughout, long exp time
   ABd:soft NT +BS BS
   Ext: RLE edema
   Neuro: comversant, anxious, [**3-26**] right hand grip
   Labs / Radiology
   8.0 g/dL
   123 K/uL
   198 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.3 mEq/L
   94 mg/dL
   100 mEq/L
   135 mEq/L
   24.3 %
   4.0 K/uL
        [image002.jpg]
                             [**2157-9-23**]  12:32 AM
                             [**2157-9-23**]  06:27 AM
   WBC
   4.0
   Hct
   24.3
   Plt
   123
   Cr
   3.4
   3.5
   TropT
   0.02
   Glucose
   198
   Other labs: PT / PTT / INR:19.0/38.3/1.8, CK / CKMB /
   Troponin-T:17//0.02, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   1) Respiratory distress
   2) CHF - systolic, acute and chronic
   3) CRF
   4) anemia
   1. Resp Distress: severe CHF exacerbation
 still dyspneic Initiate
   Lasix gtts for goal 1L negative. No wacute indication for re -starting
   BIPAP this moment but needs close monitoring and will do so if
   deteriorates any further.
   2. ARF and CRF: Renal function near baseline. Would not diurese more
   than 1L negative each day. Electrolytes and acid base status
   acceptable.
   3. Hct 25; near baseline. No evidence of acute bleeding. Not at
   threshold for transfusion; no evidence of acute ischemia now.
   4. Right hand weakness: check Head CT when resp status stable enough
   for him to lie flat, not in the window or an apprporate time frame for
   TPA even if small CVA so MRI not indicated at present
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-9-22**] 07:00 PM
   Prophylaxis:
   DVT: ppi
   Stress ulcer: sq hep
   Communication:  with pt and son
   [**Name (NI) 36**] status: Full code (DNR but could be intubated for short term
   issue- under discussions with p[t and son )
   Disposition :ICU

2157-09-24 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-9-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-9-23**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-9-24**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 71) bpm
   BP: 99/59(70) {92/47(37) - 116/69(81)} mmHg
   RR: 20 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                  1,118 mL
                                                                    149 mL
   PO:
                                                                  1,020 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     98 mL
                                                                     49 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    850 mL
   Urine:
                                                                  2,045 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -927 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: NAD, sleeping comfortably, wakes easily, very hard of hearing.
   HEENT: NC/AT, EOMI, bil surgical pupils, left more irregular than
   right, both responsive, though left difficult to appreciate.
   neck: No significant JVD, supple, nontender, non bruits
   CV: S1S2+, RRR, no MRG
   PULM: rales bilaterally, at bases 1/2 up back
   ABD: +BS, soft, nt, nd, no HSM
   EXT: 1+ b/l LE edema to below the knee
   NEUR: CNII-XII intact, 4/5 strength in RUE at bicep and hand, [**4-25**] in
   LUE. L arm drift and pronator drift on left.
   skin: ecchymoses along both UEs, no ulcers or breakdown, rash or lesion
   Labs / Radiology
   123 K/uL
   8.0 g/dL
   198 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.3 mEq/L
   94 mg/dL
   100 mEq/L
   135 mEq/L
   24.3 %
   4.0 K/uL
        [image002.jpg]
                             [**2157-9-23**]  12:32 AM
                             [**2157-9-23**]  06:27 AM
   WBC
   4.0
   Hct
   24.3
   Plt
   123
   Cr
   3.4
   3.5
   TropT
   0.02
   Glucose
   198
   Other labs: PT / PTT / INR:19.0/38.3/1.8, CK / CKMB /
   Troponin-T:17//0.02, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M CHF, CAD s/p CABG, CKD, DM2, who presents with shortness of
   breath most likely due to CHF exacerbation, now improving with
   diuresis
   .
   # Probable Acute on Chronic Systolic CHF
 LE edema, crackles and JVP
   improving. CXR much improved after diuresis, arguing against PNA. Less
   clear improvement today, but does not appear worse.  Was able to
   achieve goal of -1 L yesterday.
   -- continue to monitor strict I/Os and daily weights
   -- goal to diurese -1L again today. Will change the lasix drip to 40mg
   IV x 1 and reassess UOP, if needed, will increase dose to achieve
   diuresis goal
   -- low sodium diet, fluid restricted to 1.5L
   -- prn nebs
   -- no antibiotics, f/u urine culture and blood cultures, urine
   legionella
   .
   # CAD s/p CABG
 Pt w/ 2 sets negative CE. Carveilol restarted
   yesterday. Pt w/ ACE allergy. Should consider [**Last Name (un) **] in future.
   -- continue aspirin 81 mg daily
   -- no need for statin per recent cards eval
   -- monitor on tele
   .
   # R-sided weakness ? CVA: pt observed to have right hand weakness. Has
   been present for several days, long outside window for TPA. Given acute
   on chronic renal failure, will not tolerate IV contrast at this time.
   Will need to consider possible sources for embolic stroke. TTE and and
   Neuro consult after Head CT
   - Head CT
   - Neurology consult
   .
   # CHB s/p PPM -
   -- pt is [**Name (NI) 1700**], monitor on tele
   .
   # Stage 4 CKD - Likely from HTN or DM nephropathy, Cr is mildly
   elevated from baseline of [**1-23**]. Urine lytes c/w pre-renal state, likely
   from poor forward flow.
   -- trend Cr with diuresis, not yet improved. [**Month (only) 51**] need to live at a new
   baseline Cr if CHF is worsening
   -- renally dose meds
   .
   # Hyperkalemia
 resolved with diuresis, this am 3.3. Repleated with
   20meq IV.
   -- continue diuresis, trend K, repleated as necessary.
   .
   # DM - well controlled, last HbA1C 6.1% in [**8-29**] . BS this am low 59.
   -- check FS QID, diabetic diet , change regular insulin to humolog
   -- continue asa for ppx
   -- holding oral hypoglycemic while in-house
   .
   # Elevated INR - chronic, deemed nutritional during previous
   hospitalizations given poor albumin and underlying nutrition
   -- s/p vitamin K 10mg po x 1
   -- trend coags
   .
   # Anemia: Chronic, and without prior colonoscopy (deferred [**1-22**] age)
   -- recent iron studies not consistent with iron deficiency or ACD.
   -- No evidence of acute blood loss or hemolysis on prior admissions
   -- trending HCT
   -- Guaiac all stool. Consider transfusion if continues to decrease.
   .
   # BPH-treated as outpatient.
   -- holding flomax to allow for BP usage in diuresis
   .
   #FEN:
   -- PO low sodium heart healthy diet
   -- follow and replete electrolytes [**Hospital1 7**] with diuresis
   .
   #PPx:
   -- sub Q hep, bowel regimen, H2 blocker
   .
   # Code
   -- is DNR but may be intubated, discussed with HCPs
   .
   #Comm: son [**Name (NI) **] [**Telephone/Fax (1) 1701**], son [**Name (NI) 1296**] [**Telephone/Fax (1) 1702**] both are HCPs
   -- will assist with ICU consent today
   # Dispositoin: Likely c/o today or tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-9-22**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-09-24 13:10:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major clinical events
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-9-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-9-24**] 08:00 AM
   Other medications:
   asa, sqh, sqi, colcace, h2b, lasix infusion @ 8, carvedilol,
   bronchodilators
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: improved dyspnea
   Flowsheet Data as of  [**2157-9-24**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 70 (70 - 72) bpm
   BP: 119/71(84) {92/47(60) - 119/71(84)} mmHg
   RR: 18 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  1,118 mL
                                                                    442 mL
   PO:
                                                                  1,020 mL
                                                                    340 mL
   TF:
   IVF:
                                                                     98 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                  1,572 mL
   Urine:
                                                                  2,045 mL
                                                                  1,572 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -927 mL
                                                                 -1,130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : half up)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, Right hand and arm
   weakness and pronator drift
   Labs / Radiology
   7.7 g/dL
   119 K/uL
   52 mg/dL
   3.4 mg/dL
   24 mEq/L
   3.3 mEq/L
   100 mg/dL
   96 mEq/L
   134 mEq/L
   23.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2157-9-23**]  12:32 AM
                             [**2157-9-23**]  06:27 AM
                             [**2157-9-24**]  06:52 AM
   WBC
   4.0
   7.5
   Hct
   24.3
   23.4
   Plt
   123
   119
   Cr
   3.4
   3.5
   3.4
   TropT
   0.02
   Glucose
   198
   52
   Other labs: PT / PTT / INR:18.4/41.8/1.7, CK / CKMB /
   Troponin-T:17//0.02, Differential-Neuts:84.9 %, Lymph:8.7 %, Mono:5.4
   %, Eos:0.8 %, Ca++:8.6 mg/dL, Mg++:2.8 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old man with
          CHF exacerbation (acute and chronic systolic CHF)
   o         He has improved markedly  with diuresis
   o         Convert to Lasix boluses
   o         BPs still a little tenuous; will hold off on additional
   afterload reduction while diuresing
   o         If tolerates being off Lasix gtt, call out to medicine with
   cardiology consult (discuss with cardiology if they would like to
   accept to their service)
          Right hand weakness
   o         Concerning for ACA territory infarct, but out of window for
   thrombolytic therapy
   o         Aspirin
   o         Discuss with PCP.  [**Name10 (NameIs) **] neurology consult
          ARF in setting of CKD
   o         Likely related to CHF.  Will follow.
          Anemia
   o         Guaiac stools.
   o         Will transfuse (with Lasix) given CHF, ARF/CKD if Hct falls
   any further
          Diabetes
   o         Given borderline hypoglycemia, adjust sliding scale and
   convert to Humalog
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-9-22**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor

2157-09-25 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt received 1 unit PRBCs for HCT decrease from 23.4 to 22.7.
   Pt had lasix 40mg x 2 yesterday with good UOP response to achieve goal
   of > -1L fluid balance.
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-9-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-9-25**] 12:10 AM
   Furosemide (Lasix) - [**2157-9-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-9-25**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 70 (70 - 72) bpm
   BP: 119/65(79) {92/40(53) - 119/71(100)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
           Total In:
                                                                    921 mL
                                                                    613 mL
   PO:
                                                                    760 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    109 mL
                                                                     50 mL
   Blood products:
                                                                     52 mL
                                                                    323 mL
   Total out:
                                                                  2,952 mL
                                                                    680 mL
   Urine:
                                                                  2,952 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,031 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Gen: NAD, sleeping comfortably, wakes easily, very hard of hearing.
   HEENT: NC/AT, EOMI, bil surgical pupils, left more irregular than
   right, both responsive, though left difficult to appreciate.
   neck: No significant JVD, supple, nontender, non bruits
   CV: S1S2+, RRR, no MRG
   PULM: rales bilaterally, at bases 1/2 up back
   ABD: +BS, soft, nt, nd, no HSM
   EXT: 1+ b/l LE edema to below the knee
   NEUR: CNII-XII intact, 4/5 strength in RUE at bicep and hand, [**4-25**] in
   LUE. L arm drift and pronator drift on left.
   skin: ecchymoses along both UEs, no ulcers or breakdown, rash or lesion
   Labs / Radiology
   119 K/uL
   7.7 g/dL
   153 mg/dL
   3.4 mg/dL
   27 mEq/L
   3.2 mEq/L
   101 mg/dL
   96 mEq/L
   134 mEq/L
   22.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2157-9-23**]  12:32 AM
                             [**2157-9-23**]  06:27 AM
                             [**2157-9-24**]  06:52 AM
                             [**2157-9-24**]  06:50 PM
                             [**2157-9-24**]  06:53 PM
                             [**2157-9-25**]  04:07 AM
   WBC
   4.0
   7.5
   Hct
   24.3
   23.4
   22.7
   Plt
   123
   119
   Cr
   3.4
   3.5
   3.4
   3.5
   3.4
   TropT
   0.02
   Glucose
   198
   52
   130
   153
   Other labs: PT / PTT / INR:18.4/41.8/1.7, CK / CKMB /
   Troponin-T:17//0.02, Differential-Neuts:84.9 %, Lymph:8.7 %, Mono:5.4
   %, Eos:0.8 %, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M CHF, CAD s/p CABG, CKD, DM2, who presents with shortness of
   breath most likely due to CHF exacerbation, now improving with
   diuresis
   .
   # Probable Acute on Chronic Systolic CHF
 LE edema, crackles and JVP
   improving. CXR much improved after diuresis, arguing against PNA. Less
   clear improvement today, but does not appear worse.  Was able to
   achieve goal of -1 L yesterday.
   -- continue to monitor strict I/Os and daily weights
   -- goal to diurese -1L again today. Will change the lasix drip to 40mg
   IV x 1 and reassess UOP, if needed, will increase dose to achieve
   diuresis goal
   -- low sodium diet, fluid restricted to 1.5L
   -- prn nebs
   -- no antibiotics, f/u urine culture and blood cultures, urine
   legionella
   .
   # CAD s/p CABG
 Pt w/ 2 sets negative CE. Carveilol restarted
   yesterday. Pt w/ ACE allergy. Should consider [**Last Name (un) **] in future.
   -- continue aspirin 81 mg daily
   -- no need for statin per recent cards eval
   -- monitor on tele
   .
   # R-sided weakness ? CVA: pt observed to have right hand weakness. Has
   been present for several days, long outside window for TPA. Given acute
   on chronic renal failure, will not tolerate IV contrast at this time.
   Will need to consider possible sources for embolic stroke. TTE and and
   Neuro consult after Head CT
   - Head CT
   - Neurology consult
   .
   # CHB s/p PPM -
   -- pt is [**Name (NI) 1700**], monitor on tele
   .
   # Stage 4 CKD - Likely from HTN or DM nephropathy, Cr is mildly
   elevated from baseline of [**1-23**]. Urine lytes c/w pre-renal state, likely
   from poor forward flow.
   -- trend Cr with diuresis, not yet improved. [**Month (only) 51**] need to live at a new
   baseline Cr if CHF is worsening
   -- renally dose meds
   .
   # Hyperkalemia
 resolved with diuresis, this am 3.3. Repleated with
   20meq IV.
   -- continue diuresis, trend K, repleated as necessary.
   .
   # DM - well controlled, last HbA1C 6.1% in [**8-29**] . BS this am low 59.
   -- check FS QID, diabetic diet , change regular insulin to humolog
   -- continue asa for ppx
   -- holding oral hypoglycemic while in-house
   .
   # Elevated INR - chronic, deemed nutritional during previous
   hospitalizations given poor albumin and underlying nutrition
   -- s/p vitamin K 10mg po x 1
   -- trend coags
   .
   # Anemia: Chronic, and without prior colonoscopy (deferred [**1-22**] age)
   -- recent iron studies not consistent with iron deficiency or ACD.
   -- No evidence of acute blood loss or hemolysis on prior admissions
   -- trending HCT
   -- Guaiac all stool. Consider transfusion if continues to decrease.
   .
   # BPH-treated as outpatient.
   -- holding flomax to allow for BP usage in diuresis
   .
   #FEN:
   -- PO low sodium heart healthy diet
   -- follow and replete electrolytes [**Hospital1 7**] with diuresis
   .
   #PPx:
   -- sub Q hep, bowel regimen, H2 blocker
   .
   # Code
   -- is DNR but may be intubated, discussed with HCPs
   .
   #Comm: son [**Name (NI) **] [**Telephone/Fax (1) 1701**], son [**Name (NI) 1296**] [**Telephone/Fax (1) 1702**] both are HCPs
   -- will assist with ICU consent today
   # Dispositoin: Likely c/o today or tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-9-22**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: